US08809342B2
To a solution of 6-chloro-5-methylpyridin-3-amine (3 g, 20 mmol) in 1,2-dimethoxyethane (30 mL) was added PdCl2(dppf) (770 mg, 1.16 mmol), 4-chlorophenylboronic acid (4.94 g, 31.6 mmol), and K3PO4 (8.93 g, 42.1 mmol). The reaction mixture was purged with nitrogen and heated to reflux. Water (20 mL) was added and the reaction mixture was stirred at reflux for 48 h. The reaction mixture was extracted with ethyl acetate (30 mL*3). The combined organic layers were concentrated under reduced pressure. Purification by silica gel chromatography provided 6-(4-chlorophenyl)-5-methylpyridin-3-amine (2.5 g) as a yellow solid. 1HNMR (400 MHz, CDCl3) δ 7.96 (s, 1 H), 7.30-7.36 (m, 4H), 6.83 (s, 1H), 2.21 (s, 3H).

reactant | 6-chloro-5-methylpyridin-3-amine | 20 mmol, 3 g | ClC1=C(C=C(C=N1)N)C | C6H7ClN2
reactant | 4-chlorophenylboronic acid | 31.6 mmol, 4.94 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K3PO4 | 42.1 mmol, 8.93 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 1.16 mmol, 770 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4-chlorophenyl)-5-methylpyridin-3-amine | 2.5 g | ClC1=CC=C(C=C1)C1=C(C=C(C=N1)N)C | C12H11ClN2
